US03954754
EXAMPLE 63: 3-(3-Pentylidenehydrazino)-6-pivaloyl-5,6,7,8-tetrahydropyrido[4,3-c]pyridazine
1 g of 3-hydrazino-5,6,7,8-tetrahydro-6-pivaloylpyrido[4,3-c]pyridazine is suspended in 10 cc of diethylketone, and heating on a water bath is effected for 1 hour. The title compound has a M.P. of 183°-185° (decomp., from absolute ethanol).

reactant | 3-hydrazino-5,6,7,8-tetrahydro-6-pivaloylpyrido[4,3-c]pyridazine | 1 g | N(N)C1=CC2=C(N=N1)CCN(C2)C(C(C)(C)C)=O | C12H19N5O
solvent | diethylketone | 10 cc | C(C)C(=O)CC | C5H10O
product | 3-(3-Pentylidenehydrazino)-6-pivaloyl-5,6,7,8-tetrahydropyrido[4,3-c]pyridazine | CCC(CC)=NNC1=CC2=C(N=N1)CCN(C2)C(C(C)(C)C)=O | C17H27N5O
